US07713994B2
(4Z)-6-Bromo-4-({[3-hydroxy-4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}methylene) isoquinoline-1,3(2H,4H)-dione
An amount of 33.5 mg (0.142 mmol) of 5-Aminomethyl-2-(2-pyrrolidin-1-yl-ethoxy)-phenol, is dissolved in N,N-dimethylformamide (2 ML). 30 μl (0.213 mmol) of triethylamine is added followed by 20 mg (0.071 mmol) of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione. After the mixture is stirred at room temperature for 30 min, water (2 mL) is added and the reaction mixture is stirred for 60 min. The precipitate is filtered and washed several times with anhydrous ether. The crude solid is then purified by high performance liquid chromatography to give 23 mg of a yellow solid. MS (ESI) m/z 486.3 (M+1).

reactant | 5-Aminomethyl-2-(2-pyrrolidin-1-yl-ethoxy)-phenol | 0.142 mmol, 33.5 mg | NCC=1C=CC(=C(C1)O)OCCN1CCCC1 | C13H20N2O2
reactant | triethylamine | 0.213 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.071 mmol, 20 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | water | 2 mL | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-({[3-hydroxy-4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}methylene) isoquinoline-1,3(2H,4H)-dione | 23 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OCCN1CCCC1)O | C23H24BrN3O4
